US08895781B2
Preparation of PhCH(CH3)NHMes
To a solution of 104 μL, (100 mg; 0.741 mmol) of mesitylamine, 136 μL, (108 mg; 0.741 mmol) t-butyl peroxide, 20 mL (neat) ethylbenzene was added the appropriate amount of {[Cl2NNF6Cu]}2(C6H6) from a stock solution in benzene. The reaction mixture was allowed to react inside a sealed pressure vessel and allowed to react at the specified temperature and time. Yields were determined via 1H NMR using 1,2,4,5-tetrachlorobenzene as a standard. See FIGS. 22 and 23. 1H NMR (benzene-d6, RT): δ 7.105 (m, 7, Ar—H), 4.159 (m, 1, CBz—H), 2.907 (br, 1, N—H), 2.142 (s, 3, p-CH3), 2.040 (s, 6, o-CH3), 1.341 (d, 3, CH3); m/z=240 (CI mode); byproduct diazene MesN═NMes 1H NMR (benzene-d6): δ 6.742 (s, 4, Ar—H), 2.461 (s, 12, o-CH3), 2.116 (s, 6, p-CH3); m/z=267 (CI mode).

reactant | mesitylamine | 0.741 mmol, 100 mg | C1(=C(C(=CC(=C1)C)C)N)C | C9H13N
reactant | t-butyl peroxide | 0.741 mmol, 108 mg | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | 1,2,4,5-tetrachlorobenzene | ClC1=C(C=C(C(=C1)Cl)Cl)Cl | C6H2Cl4
solvent | ethylbenzene | 20 mL | C(C)C1=CC=CC=C1 | C8H10
product | PhCH(CH3)NHMes | C1(=CC=CC=C1)C(C)NC1=C(C)C=C(C)C=C1C | C17H21N
